US07692005B2
A 25 mL round bottom flask was charged with (4-Nitro-phenyl)-(2-pyrrolidin-1-yl-ethyl)-amine (0.352 g, 1.50 mmol mmol) and EtOH (5 mL). Hydrazine Hydrate (0.326 mL, 10.5 mmol) was then added to the solution. Excess RaNi was then added in dropwise until gas evolution ceased. The suspension was then allowed to stir for an additional 1 h at 65° C. The suspension was cooled to room temperature and then was filtered over celite. The celite was washed with MeOH (˜20 mL) and the combined organic solutions were then concentrated in vacuo affording pure N-(2-Pyrrolidin-1-yl-ethyl)-benzene-1,4-diamine as a light purple oil (0.219 g, 1.07 mmol, 71% yield).

reactant | (4-Nitro-phenyl)-(2-pyrrolidin-1-yl-ethyl)-amine | 1.50 mmol, 0.352 g | [N+](=O)([O-])C1=CC=C(C=C1)NCCN1CCCC1 | C12H17N3O2
reactant | Hydrazine Hydrate | 10.5 mmol, 0.326 mL | O.NN
catalyst | RaNi | [Ni] | Ni
solvent | EtOH | 5 mL | CCO | C2H6O
product | N-(2-Pyrrolidin-1-yl-ethyl)-benzene-1,4-diamine | 1.07 mmol, 0.219 g, 71% yield | N1(CCCC1)CCNC1=CC=C(C=C1)N | C12H19N3
